US05443970
6-t-Butyldimethylsilyloxymethyl-4-hydroxypyran-2-one (25.9 parts) was dissolved in ethanol (1600 parts) and the solution purged with nitrogen. 10% Palladium on carbon catalyst (5.2 parts) was added and the mixture hydrogenated at 20°-25° C. When the reaction was complete as judged by GC analysis the catalyst was filtered off and the solvent was distilled off under reduced pressure at 40° C. to leave 6-t-butyldimethylsilyloxymethyl-5,6-dihydro-4-hydroxy pyran-2-one (23.0 parts, 90%) m.p. 119°-122° C. as a light brown residue.

reactant | 6-t-Butyldimethylsilyloxymethyl-4-hydroxypyran-2-one | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CC(O1)=O)O | C12H20O4Si
solvent | ethanol | C(C)O | C2H6O
product | 6-t-butyldimethylsilyloxymethyl-5,6-dihydro-4-hydroxy pyran-2-one | 90% | [Si](C)(C)(C(C)(C)C)OCC1CC(=CC(O1)=O)O | C12H22O4Si
